US05616174
Into water (500 ml), m-aminobenzenephosphonic acid (87.0 g) was suspended with stirring. To the mixture, 35% hydrochloric acid (101.3 g) was added, and the mixture was cooled to 0° C. While the solution was maintained at a temperature below 5° C., 36% sodium nitrite (105.4 g) was added dropwise to the solution. The mixture was stirred for 50 minutes to diazotize m-aminobenzenephosphonic acid. Thiourea was then added to the resulting aqueous solution, and the unreacted nitrite was removed to give a diazotized compound containing solution. On the other hand, 3-aminobenzoic acid (58.6 g) was dispersed into methanol (800 ml) and heated to 55° C. to form a solution containing a coupling compound, which was then cooled to 0° C. The diazotized compound containing solution prepared above was added dropwise while the mixture was maintained at a temperature below 5° C. After stirring the mixture at 3°-5° C. for 18 hours, the resulting precipitates were collected by filtration, washed with water to give a monoazo compound, m-(2-carboxy-4-amino-phenylazo)benzenephosphonic acid in a yield of about 125.3 g.

reactant | m-aminobenzenephosphonic acid | 87.0 g | NC=1C=C(C=CC1)P(O)(=O)O | C6H8NO3P
reactant | hydrochloric acid | 101.3 g | Cl | ClH
reactant | sodium nitrite | 105.4 g | N(=O)[O-].[Na+]
reactant | Thiourea | NC(=S)N | CH4N2S
reactant | 3-aminobenzoic acid | 58.6 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
solvent | methanol | 800 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | m-(2-carboxy-4-amino-phenylazo)benzenephosphonic acid | C(=O)(O)C1=C(C=CC(=C1)N)N=NC=1C=C(C=CC1)P(O)(=O)O | C13H12N3O5P
